US05541198
105.5 Milliliters of 2,2-diethoxyethylamine was dropwise added to 138 g of 4-bromo-2-methylphenyl isothiocyanate with ice-cooling. The mixture was stirred for 10 minutes and then further stirred for 10 minutes at 100° C. The mixture was allowed to cool, and thereto was added 500 ml of 8 N hydrochloric acid. The mixture was refluxed for 2 hours. The resulting crystals were collected by filtration, washed with water thoroughly and then dried to obtain 110 g of 1-(4-bromo-2-methylphenyl)-2-mercaptoimidazole.

reactant | 2,2-diethoxyethylamine | C(C)OC(CN)OCC | C6H15NO2
reactant | 4-bromo-2-methylphenyl isothiocyanate | 138 g | BrC1=CC(=C(C=C1)N=C=S)C | C8H6BrNS
solvent | hydrochloric acid | 8 N, 500 ml | Cl | ClH
product | 1-(4-bromo-2-methylphenyl)-2-mercaptoimidazole | 110 g | BrC1=CC(=C(C=C1)N1C(=NC=C1)S)C | C10H9BrN2S
